US07192950B2
2-{2-[1-(3,4-Dimethoxy-benzyl)-7,8-dimethoxy-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl]-2-phenyl-acetylamino}-3-hydroxy-propionic acid methyl ester
prepared by reaction of [1-(3,4-dimethoxy-benzyl)-7,8-dimethoxy-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl]-phenyl-acetic acid with L-serine methyl ester hydrochloride.

reactant | [1-(3,4-dimethoxy-benzyl)-7,8-dimethoxy-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl]-phenyl-acetic acid | COC=1C=C(CC2N(CCCC3=C2C=C(C(=C3)OC)OC)C(C(=O)O)C3=CC=CC=C3)C=CC1OC | C29H33NO6
reactant | L-serine methyl ester hydrochloride | Cl.COC([C@@H](N)CO)=O
product | 2-{2-[1-(3,4-Dimethoxy-benzyl)-7,8-dimethoxy-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl]-2-phenyl-acetylamino}-3-hydroxy-propionic acid methyl ester | COC(C(CO)NC(C(C1=CC=CC=C1)N1C(C2=C(CCC1)C=C(C(=C2)OC)OC)CC2=CC(=C(C=C2)OC)OC)=O)=O | C33H40N2O8
